US07101871B2
Step D: Hexahydro-3-[4-(trifluoromethoxy)benzyl]-2H-1,4-diazepin-2-one hydrochloride
tert-Butyl hexahydro-3-oxo-2-[4-(trifluoromethoxy)benzyl]-1H-1,4-diazepine-1-carboxylate was dissolved in 4M hydrogen chloride in dioxane and after 2.5 h evaporated to yield the desired product.

reactant | tert-Butyl hexahydro-3-oxo-2-[4-(trifluoromethoxy)benzyl]-1H-1,4-diazepine-1-carboxylate | O=C1C(N(CCCN1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC(F)(F)F | C18H23F3N2O4
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Hexahydro-3-[4-(trifluoromethoxy)benzyl]-2H-1,4-diazepin-2-one hydrochloride | Cl.FC(OC1=CC=C(CC2C(NCCCN2)=O)C=C1)(F)F | InChI=1S/C13H15F3N2O2.ClH/c14-13(15,16)20-10-4-2-9(3-5-10)8-11-12(19)18-7-1-6-17-11;/h2-5,11,17H,1,6-8H2,(H,18,19);1H
